US08486957B2
Methyl reserpate:
A suspension of reserpine (1.00 g, 1.64 mmol), NaOMe (0.20 g, 3.61 mmol), and MeOH (50 mL) was refluxed for 4 h (more NaOMe was added twice), cooled, and concentrated to one-third the volume. The solution was diluted with water (60 mL) and acidified to pH=1 with concentrated HCl. The water layer was washed with Et2O repeatedly and made basic with concentrated NH4OH and repeatedly extracted with CH2Cl2 (4×30 mL). The combined organic phases were dried, filtered, and concentrated to give a colorless solid (0.66 g, 97%). 1H NMR (CDCl3) δ 7.85 (s, 1H), 7.32 (d, J=8.4 Hz, 1H), 6.82-6.74 (m, 2H), 4.41 (s, 1H), 3.83 (s, 3H), 3.78 (s, 3H), 3.73-3.68 (m, 1H), 3.59 (s, 3H), 3.58-3.45 (m, 3H), 3.18-3.15 (m, 2H), 3.01-2.91 (m, 2H), 2.68-2.43 (m, 4H), 2.26-2.18 (m, 2H), 1.98-1.75 (m, 4H), 1.27-1.18 (m, 2H); 13C NMR (CDCl3) δ 173.5, 156.2, 136.5, 130.9, 122.3, 118.6, 108.99, 108.03, 95.3, 81.6, 75.3, 66.0, 61.1, 58.4, 55.9, 53.8, 51.9, 51.5, 51.3, 49.4, 34.6, 32.9, 32.5, 24.4, 18.5, 16.9, 15.4.

reactant | reserpine | 1.64 mmol, 1.00 g | COC=1C=CC2=C(C1)NC3=C2CCN4[C@@H]3C[C@H]5[C@@H](C4)C[C@H]([C@@H]([C@H]5C(=O)OC)OC)OC(=O)C=6C=C(C(=C(C6)OC)OC)OC | C33H40N2O9
reactant | NaOMe | 3.61 mmol, 0.20 g | C[O-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
product | Methyl reserpate | 0.66 g, 97% | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)O | C23H30N2O5
